US06458830B1
i) N-Benzyloxycarbonyl-4-(N4-methyl(thiosemicarbazido)carbonyl)piperidine
N-Benzyloxycarbonyl-4-(hydrazinocarbonyl)piperidine (231 g) was dissolved in toluene (500 ml) and a solution of methyl isothiocyanate (90 g) in toluene (50 ml) was added with stirring. After lhr the resulting precipitate was separated, washed with ether and dried to give the title compound (280 g).

reactant | N-Benzyloxycarbonyl-4-(hydrazinocarbonyl)piperidine | 231 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)C(=O)NN | C14H19N3O3
reactant | methyl isothiocyanate | 90 g | CN=C=S | C2H3NS
solvent | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | N-Benzyloxycarbonyl-4-(N4-methyl(thiosemicarbazido)carbonyl)piperidine | 280 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)C(=O)NNC(=S)NC | C16H22N4O3S
